US06162927
N-butyl-4-hydroxybutyramide
To 30 mL (390 mmol) of g-butyrolactone was added 45 ml (455 mmol) of n-butylamine. The solution was heated at 85° C. for 1.5 hr, then the excess n-butylamine was removed in vacuo. The product crystallized on standing to give about 62 g of a colorless, low melting solid.

reactant | g-butyrolactone | 390 mmol, 30 mL | C1(CCCO1)=O | C4H6O2
reactant | n-butylamine | 455 mmol, 45 ml | C(CCC)N | C4H11N
product | N-butyl-4-hydroxybutyramide | C(CCC)NC(CCCO)=O | C8H17NO2
